Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin (bulk) / Relafen / Claritin / Bactrim / Elavil / 
Salsalate / Singulair / narcotics
 
Attending: ___.
 
Chief Complaint:
Slip and fall 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ y/o F with PMHx DM2, HTN, osteoporosis, recent falls, leg
weakness, asthma who presents s/p fall onto RUE. Pt states she
was walking down her hallway yesterday afternoon when she 
tripped
over her feet and fell onto her R arm. Denies headstrike or LOC.
Endorsing constant pain from R shoulder down to her R forearm,
exacerbated with movement. She has a history of rotator cuff
surgery on her R shoulder. Denies numbness/tingling in R arm or
any other extremity. No pain in her neck, back, or lower
extremities. Denies chest pain, dyspnea, nausea, vomiting,
fevers, chills, or any prodromal symptoms.

In the ED, initial vitals were:
Temp 97.8 | HR 62 | BP 121/50 | RR 15 | SpO2 99% RA

Exam was notable for:
R wrist full ROM, R elbow unable to fully extend ___ pain, R
shoulder unable to fully abduct ___nd ulnar
pulses intact.

XRay imaging revealed right humeral neck fracture. She was
evaluated by Ortho in the ED, who recommended cuff and collar 
for
immobilization, non-weight bearing to the RUE. She was evaluated
by ___ who thought patient was not safe for home discharge and
recommended rehab placement.

During her stay in the ED, pt was noted on telemetry to have
bradycardia while sleeping, as well as hypoxia. Labs were 
notable
for elevated troponin to 0.11. ECG without ST elevation. She
denied chest pain, dyspnea, nausea, diaphoresis, or any anginal
equivalents. Cardiology recommended admission to medicine for
further management.

On arrival to the floor, Ms. ___ reports that she is feeling
well though still has pain in her RUE. Denies any chest pain,
dyspnea, abdominal pain, nausea. She says that her current pain
medications help relieve her arm pain; however, they are not
fully sufficient. She is hesitant to try any opioids, as she has
had significant adverse reactions to them in the past.

Of note, patient ambulates around home with walker at baseline
and is able to use the restroom and shower without help. 
Notably,
has a previous diagnosis of a left foot drop for which she uses 
a
left foot brace whenever she is ambulating. 

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
ALLERGIC RHINITIS                                               
ANEMIA                                                          
ASTHMA                                                          
CARPAL TUNNEL SYNDROME                                          
CATARACTS                                                       
CHRONIC LOW BACK PAIN                                           
DEGENERATIVE JOINT DISEASE                                      
DEPRESSION                                                      
DIABETES TYPE II                                                
DYSFUNCTIONAL UTERINE BLEEDING                                  
GASTROESOPHAGEAL REFLUX                                         
HYPERTENSION                                                    
HYPOTHYROIDISM                                                  
LIPODERMATOSCLEROSIS                                            
OBESITY                                                         
OSTEOPOROSIS                                                    
R SHOULDER FX                                                   
HYPERCHOLESTEROLEMIA                                            
___ WEAKNESS, L>R                                            
LUMBAR SPINAL STENOSIS 
 
Social History:
___
Family History:
Mother died at ___ from lung cancer and breast cancer (smoked); 
Father died of CAD (alcoholic); Brother died of complications 
from poorly controlled diabetes.
 
Physical Exam:
===========================
ADMISSION PHYSICAL 
===========================
VITALS: ___ Temp: 97.6 PO BP: 172/82 L Lying HR: 79 
RR:
18 O2 sat: 96% O2 delivery: 2L Nc FSBG: 120 
HR: 71, SpO2 99 on 2L
GENERAL: Lying in bed with right arm in sling, in no acute
distress. Significant kyphoscoliosis.
HEENT: EOMI. Sclera anicteric and without injection. MMM. Nasal
cannula in place.
CARDIAC: Normal rate and rhythm. Grade ___ systolic murmur heard
loudest over the apex.
LUNGS: Clear to auscultation bilaterally in anterior fields
without wheezes, rhonchi or rales. No increased work of
breathing.
ABDOMEN: Normal bowel sounds. Soft, nontender, non distended, 
EXTREMITIES: Warm. No edema. Pulses DP/Radial 2+ bilaterally.
Left AFO brace in place.
NEUROLOGIC: AAOx3. CN2-12 intact. RUE motion restricted, pain
limited, and in sling. 

===========================
DISCHARGE  PHYSICAL 
===========================
VITALS: T 98.1 BP 143/86 HR 111 RR 20 94%Ra 
General: elderly women, well groom, sitting hunched over in 
achair
HEENT: epiglottis visible on mouth inspection 
Back: Significant kyphoscoliosis.
CV: regular rate, occasional short pause, systolic murmur 
Chest: clear to auscultation bilaterally in anterior fields 
without wheezes, rhonchi or rales. Normal work of breathing. 
MSK: R arm has strong radial pulse, no numbness, intact strenth
ABDOMEN: Normal bowel sounds. Soft, nontender, non distended, 
EXTREMITIES: Warm. No edema. Pulses DP/Radial 2+ bilaterally. 
Left AFO brace in place.
NEUROLOGIC: AOx3, quiet affect, face grossly symmetric, unable 
to assess RUE ___ pain, ___ strength in other extremities w 
coaching
 
Pertinent Results:
=====================================
ADMISSION LABS 
=====================================
___ 11:48AM BLOOD WBC-8.6 RBC-4.94 Hgb-11.0* Hct-37.1 
MCV-75* MCH-22.3* MCHC-29.6* RDW-16.3* RDWSD-43.8 Plt ___
___ 11:48AM BLOOD Neuts-81.2* Lymphs-8.8* Monos-7.8 Eos-1.4 
Baso-0.3 Im ___ AbsNeut-6.97* AbsLymp-0.76* AbsMono-0.67 
AbsEos-0.12 AbsBaso-0.03
___ 11:48AM BLOOD ___ PTT-32.8 ___
___ 11:48AM BLOOD D-Dimer-644*
___ 11:48AM BLOOD Glucose-99 UreaN-17 Creat-0.6 Na-147 
K-3.4* Cl-100 HCO3-31 AnGap-16
___ 11:48AM BLOOD CK(CPK)-69
___ 11:48AM BLOOD cTropnT-0.11*
___ 03:22PM BLOOD CK-MB-7 proBNP-850*
___ 03:22PM BLOOD cTropnT-0.13*
___ 09:25PM BLOOD cTropnT-0.12*
___ 11:48AM BLOOD Calcium-8.9 Phos-3.3 Mg-1.8
___ 03:22PM BLOOD Iron-29*
___ 03:22PM BLOOD calTIBC-333 Ferritn-43 TRF-256
___ 09:25PM BLOOD TSH-5.5*

=====================================
PERTINENT INTERVAL  LABS 
=====================================
___ 07:35AM BLOOD 25VitD-40

=====================================
DISCHARGE LABS 
=====================================
___ 08:10AM BLOOD WBC-6.2 RBC-4.51 Hgb-10.1* Hct-34.1 
MCV-76* MCH-22.4* MCHC-29.6* RDW-17.0* RDWSD-45.0 Plt ___
___ 08:10AM BLOOD Neuts-61.6 ___ Monos-9.4 Eos-3.2 
Baso-0.5 Im ___ AbsNeut-3.79 AbsLymp-1.53 AbsMono-0.58 
AbsEos-0.20 AbsBaso-0.03
___ 08:10AM BLOOD Glucose-83 UreaN-16 Creat-0.5 Na-143 
K-3.6 Cl-98 HCO3-34* AnGap-11
___ 08:10AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.6

=====================================
PROCEDURES/STUDIES/IMAGING 
=====================================
Shoulder x ray 
AP portable upright view of the chest.  There is a fracture 
involving the neck
of the right humerus which appears acute.  Surgical anchors are 
seen imbedded
within the right humeral head.  Lung volumes are quite low.  
There is no large
effusion or pneumothorax seen.  The patient's chin obscures the 
superior
mediastinum and right lung apex.  Heart size cannot be reliably 
assessed. 
Lumbar spinal hardware is partially visualized.
Multiple views of the right shoulder and humerus were provided 
demonstrating
an acute fracture involving the neck of the right humerus with 
slight medial
displacement of the distal fracture fragment.

Elbow x ray 
Three views of the right elbow provided.  Flexion position of 
the right elbow
somewhat limits evaluation.  Partially visualized right humeral 
neck fracture.
No definite fracture is seen involving the right elbow on the 
views provided.

Chest x ray 
Low lung volumes with elevated right hemidiaphragm and 
subsequent
bronchovascular crowding.  There is no focal consolidation, 
large volume
effusion, or pneumothorax.  There are no signs of congestion or 
edema.  The
cardiomediastinal silhouette is difficult to evaluate but 
appears stable. 
Imaged osseous structures are intact.

ECHO
Suboptimal image quality. Dilated right ventricle with mild RV 
systolic dysfunction. Normal global left ventricular systolic 
function. Moderate to severe functional tricuspid regurgitation. 
At least moderate pulmonary hypertension.
 
Brief Hospital Course:
=============================
BRIEF SUMMARY 
=============================

___ y/o women with a long history of severe spinal stenosis s/p 
multiple lumbosacral surgeries with known bilateral foot drop, 
kyphoscoliosis, and osteoporosis who presents after a slip and 
fall. She sustained a right humeral neck fracture and is being 
managed non operatively. Her presentation was also complicated 
by NSTEMI, sinus pauses, and nocturnal desaturations.  We 
verified that her lower extremity neurologic deficits were long 
standing when compared to prior neurology clinic notes. 

Her NSTEMI was managed conservatively, we changed her verapamil 
to amlodipine to limit risk from the 1.5 second sinus pauses, 
and we felt like the nocturnal desaturations were related to a 
sleep disorder largely driven by restrictive physiology from her 
chest wall mechanics. This seems like a long standing issue 
given the pulmonary hypertension with RV dysfunction noted on 
her ECHO, but given that her orthopedic limitations override any 
cardiac limitations, we felt like a less aggressive approach was 
more appropriate at this time. 

Additionally, there was an interesting physical exam finding of 
a visible epiglottis on oral inspection. She had no issues with 
dysphagia or aspiration and no further workup was pursued. 

Also of note, patient have some bursts of tachycardia to 150s. 
On review of telemetry, unclear if this is sinus with P waves 
buried in prior T waves given prolonged PR interval, or if it is 
different rhythm (most likely MAT vs afib). If afib, CHADS2VASC 
would be 4 (1 for HTN, 2 for age, 1 for sex). It is very 
possible that now that her nodal agent (verapamil) was stopped, 
we are unmasking these rhythms. Given her falls and lack of 
MI/stroke history, do not feel anticoagulation is indicated. Can 
discuss in the future as outpatient. 

=============================
TRANSITIONAL ISSUES 
=============================
CARDIAC:
[ ] Changed verapamil to amlodipine given sinus pauses and ___ 
degree AV delay. 
[ ] Noted to have intermittent tachycardia on telemetry, in 
setting of pain or bowel movements. Recommend controlling pain 
well and keep bowel regimen to avoid these episodes. (Of note, 
patient not symptomatic during them). 
[ ] Can discuss possible SVT vs afib, however medications to 
treat either are relatively contraindicated in her and evidence 
of afib not very convincing (3 tele strips with brief rates in 
150s). 

RUE FRACTURE:
[ ] Schedule follow up with ortho trauma - Dr. ___ 
she be seen by ___ near ___  and have repeat x-rays of 
the shoulder on arrival.
[ ] Patient is on tramadol 25mg PRN for pain, consider 
uptitrating to 50mg if pain is interrupting her ability to 
participate in rehab. 
[ ] Right arm non-weight bearing ___ fracture.

FOLLOW-UP ISSUES:
[ ] Patient should have boot for RLE as has foot-drop on this 
side as well. 
[ ] Iron deficiency noted, consider outpatient repletion/workup 
[ ] Recommend outpatient sleep study as was desaturating to high 
___ on room air overnight while sleeping. 
[ ] Recommend discussing goals of care and code status with 
patient and family given likelihood of poor outcome should 
patient arrest. 

Greater than ___ hour spent on care on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN Dyspnea 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation DAILY 
4. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
5. Furosemide 20 mg PO DAILY 
6. ipratropium bromide 42 mcg (0.06 %) nasal TID 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Ranitidine 300 mg PO QHS 
10. Verapamil SR 240 mg PO BID 
11. Clotrimazole Cream 1 Appl TP BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  amLODIPine 5 mg PO DAILY  
3.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
5.  Senna 8.6 mg PO BID  
6.  TraMADol 25 mg PO Q6H:PRN Pain - Severe 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*12 Tablet Refills:*0 
7.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Dyspnea  
8.  Alendronate Sodium 70 mg PO 1X/WEEK (___)  
9.  Aspirin 81 mg PO DAILY  
10.  Clotrimazole Cream 1 Appl TP BID  
11.  Furosemide 20 mg PO DAILY  
12.  ipratropium bromide 42 mcg (0.06 %) nasal TID  
13.  Levothyroxine Sodium 100 mcg PO DAILY  
14.  Omeprazole 40 mg PO DAILY  
15.  Ranitidine 300 mg PO QHS  
16.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall from chronic foot drop leading to right proximal 
humeral fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
===================================
WHY DID YOU COME TO THE HOSPITAL?
===================================
-You fell at home.

================================
WHAT HAPPENED AT THE HOSPITAL?
================================
-You were seen by the orthopedic surgery team because you broke 
your arm, fortunately there was no need to perform surgery. 
-We stopped a blood pressure medication called verapamil, and 
started amlodipine instead. This is because we noticed some 
pauses while monitoring the heart rhythm.

====================================================
WHAT NEEDS TO HAPPEN WHEN YOU LEAVE THE HOSPITAL?
=====================================================
-Work hard at rehab to regain the strength. 
 
Followup Instructions:
___